US04044012
1-Hydroxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin
10.0 g. (28.5 moles) of 1-ethyl-2,3,4,6,7,12-hexahydro-indolo[2,3-a]quinolizine perchlorate are dissolved in 100 ml. of dichloromethane, and 75 ml. of distilled water and 20 ml. of a 2N sodium hydroxide solution are added to the dichloromethane solution in argon atmosphere under constant stirring. The reaction mixture is stirred for 10 minutes, thereafter the organic phase is separated, dried over anhydrous potassium carbonate, and filtered. The filtrate is concentrated in vacuo, under argon atmosphere, to a final volume of 15 ml., and 2.0 g. (66.8 mmoles) of paraformaldehyde are added to the concentrate. The solvent is evaporated in vacuo, and the residue is heated at 160°-170° C (bath temperature) for 4 hours in a closed vessel.

reactant | 1-ethyl-2,3,4,6,7,12-hexahydro-indolo[2,3-a]quinolizine perchlorate | 28.5 moles | Cl(=O)(=O)(=O)O.C(C)C=1CCCN2CCC3=C(C12)NC1=CC=CC=C13
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | paraformaldehyde | 66.8 mmoles | C=O | CH2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-Hydroxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydroindolo[2,3-a]quinolizin | OCC1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CC | C18H24N2O
